US07737295B2
To a solution of 1-iodo-3-methoxy-5-(trifluoromethyl)benzene (200 mg, 0.66 mmol) in DMF (2 mL) was added CuCN (300 mg, 5.0 mmol). The reaction was stirred at 100° C. for 24 hours and then poured into aq. NH3 (40 mL). The mixture was extracted with EtOAc (70 mL) and the organic extracts were washed with brine (25 mL), dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography with 5% to 80% EtOAc/hexanes afforded 3-methoxy-5-(trifluoromethyl)benzonitrile. Rf=0.64 (50% EtOAc/hexanes). 1H NMR (CDCl3, 600 MHz) δ 7.47 (s, 1H), 7.34 (s, 1H), 7.31 (s, 1H), 3.89 (s, 3H).

reactant | 1-iodo-3-methoxy-5-(trifluoromethyl)benzene | 0.66 mmol, 200 mg | IC1=CC(=CC(=C1)C(F)(F)F)OC | C8H6F3IO
reactant | CuCN | 5.0 mmol, 300 mg | C(#N)[Cu]
reactant | NH3 | 40 mL | N | H3N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-methoxy-5-(trifluoromethyl)benzonitrile | COC=1C=C(C#N)C=C(C1)C(F)(F)F | C9H6F3NO
